US05578607
To a solution of 5,8-dimethyl-6nitroquinoline (1.41 g) in ethanol (17.4 mL) under argon is added iron (Fe) (1.21 g) and glacial acetic acid (2.56 g). The mixture is refluxed for two hours. More Fe (1.23 g) and glacial acetic acid (2.49 g) are added to the reaction, which is allowed to reflux for an additional hour. The reaction is poured into a beaker of ice and adjusted to pH 10 by careful addition of a saturated solution of potassium carbonate. The product is extracted with methylene chloride and the organic layer is dried over sodium sulfate, filtered, and rotary evaporated to give 5,8-dimethyl-6-aminoquinoline.

reactant | 5,8-dimethyl-6nitroquinoline | 1.41 g | CC1=C2C=CC=NC2=C(C=C1[N+](=O)[O-])C | C11H10N2O2
reactant | acetic acid | 2.56 g | C(C)(=O)O | C2H4O2
reactant | acetic acid | 2.49 g | C(C)(=O)O | C2H4O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 17.4 mL | C(C)O | C2H6O
catalyst | iron | 1.21 g | [Fe] | Fe
catalyst | Fe | 1.23 g | [Fe] | Fe
product | 5,8-dimethyl-6-aminoquinoline | CC1=C2C=CC=NC2=C(C=C1N)C | C11H12N2
